US06660744B1
A mixture of 1-(3-azetanyl)-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.05 g, 0.00014 mol), 2-(dimethylamino)acetic acid (0.0018 g, 0.000175 mol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.0034 g, 0.000175 mol), N,N′-diisopropylethylamine (0.033 g, 0.00026 mol) and 1-hydroxy-7-azabenzotriazole (0.019 g, 0.00014 mol) in anhydrous N,N-dimethylformamide (6 mL) was stirred for eighteen hours at room temperature. The solvent was removed under reduced pressure. The residue was dissolved in dichloromethane (3 mL) and washed with water (2 mL). The solvent was removed under reduced pressure. The residue was purified by RP-HPLC (Hypersilprep HS C18, 8 μm, 250×21.1 mm; 5%-100% over 35 min with 0.1 M ammonium acetate, 21 mL/min) to yield 1-{3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanyl}-2-(dimethylamino)-1-ethanone acetate (0.022 g, 0.00004 mol).

reactant | 1-(3-azetanyl)-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00014 mol, 0.05 g | N1CC(C1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C20H18N6O
reactant | 2-(dimethylamino)acetic acid | 0.000175 mol, 0.0018 g | CN(CC(=O)O)C | C4H9NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.000175 mol, 0.0034 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N′-diisopropylethylamine | 0.00026 mol, 0.033 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-hydroxy-7-azabenzotriazole | 0.00014 mol, 0.019 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 1-{3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanyl}-2-(dimethylamino)-1-ethanone acetate | 0.00004 mol, 0.022 g | C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CN(C2)C(CN(C)C)=O | InChI=1S/C24H25N7O2.C2H4O2/c1-29(2)14-20(32)30-12-17(13-30)31-24-21(23(25)26-15-27-24)22(28-31)16-8-10-19(11-9-16)33-18-6-4-3-5-7-18;1-2(3)4/h3-11,15,17H,12-14H2,1-2H3,(H2,25,26,27);1H3,(H,3,4)
